US06090843
[6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-(Ethoxyethoxy)phenyl]methanone
[6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl](4-hydroxyphenyl)methanone (0.39 g, 1.00 mmol) and ethylene glycol mono ethyl ether (2 mmol) were converted to 350 mg of the title compound by the procedure of Example 1 using 520 mg (2.0 mmol) of triphenylphosphine and 2.0 mmol of diethyl azodicarboxylate the only difference being that the total reaction time was 18 hours.

reactant | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl](4-hydroxyphenyl)methanone | 1.00 mmol, 0.39 g | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | ethylene glycol mono ethyl ether | 2 mmol | C(C)OCCO | C4H10O2
reactant | triphenylphosphine | 2.0 mmol, 520 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.0 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-(Ethoxyethoxy)phenyl]methanone | 350 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCOCC)C2=CC=C(C=C2)OC)C1 | C27H26O5S
